US08980877B2
(E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (350 mg, 0.93 mmol) was hydrolyzed with AcOH (6 ml) and aqueous 20% HCl solution (6 ml) following the procedure described in Example 31, Step B, giving (E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (320 mg, hydrochloride salt) as a yellow solid.

reactant | (E)-3-[1′-(2-Phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 0.93 mmol, 350 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)CCC3=CC=CC=C3)OC2=CC1)=O)=O | C23H23NO4
reactant | HCl | 6 ml | Cl | ClH
solvent | AcOH | 6 ml | CC(=O)O | C2H4O2
product | (E)-3-[1′-(2-phenyl-ethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 320 mg | C1(=CC=CC=C1)CCN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C22H21NO4
